US08629270B2
(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine
In a glass pressure vessel, a solution of N-[(4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (6 g, 13.6 mmol) in ethanol (240 mL) is treated with pyridine (11 mL). O-methylhydroxylamine hydrochloride (11.4 g, 136.5 mmol) is added and the mixture is heated at 50° C. for 4 hours. The solution is concentrated and diluted with 1 M hydrochloric acid and ethyl acetate. The aqueous layer is separated and neutralized with 50% w/w aqueous solution of sodium hydroxide to adjust the pH to 9. The white precipitate is filtered and dried under vacuum. The crude product is crystallized in hot methyl-t-butyl ether until a complete solution is formed then the solution is cooled to room temperature. The solid precipitate is filtered and dried under vacuum to give the title compound (3.5 g, 76%). ES/MS (m/e): 336 (M+H).

reactant | N-[(4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 13.6 mmol, 6 g | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C=1SC=CC1 | C21H18FN5OS2
reactant | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
reactant | O-methylhydroxylamine hydrochloride | 136.5 mmol, 11.4 g | Cl.CON
solvent | ethanol | 240 mL | C(C)O | C2H6O
product | (4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 3.5 g, 76% | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C=1SC=CC1 | C14H14FN5S2
